US05821246
A mixture of imidazole (12.81 g), triethyl orthoformate (133 ml) and 4-toluenesulphonic acid (1 g) was stirred and heated to 130° C. for 3 hours. The mixture was stored at ambient temperature for 16 hours. The triethyl orthoformate was evaporated and the residue was distilled under vacuum to give imidazole-l-carboxaldehyde diethyl acetal (3.44 g).

reactant | imidazole | 12.81 g | N1C=NC=C1 | C3H4N2
reactant | triethyl orthoformate | 133 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | 4-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | imidazole-l-carboxaldehyde diethyl acetal | 3.44 g | C(C)OC(N1C=NC=C1)OCC | C8H14N2O2
